US04379154
A solution of 3-chloromethylquinoline hydrochloride (46.4 g) in ethanol (160 cc), at 70° C., is added dropwise, in the course of 10 minutes, to a suspension of thiourea (19.7 g) in boiling ethanol (110 cc). The reaction mixture is stirred for 1 hour 30 minutes at the boil and then cooled to 10° C. The resulting crystals are filtered off, washed twice with ethanol (100 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. 2-(Quinol-3-ylmethyl)-isothiourea dihydrochloride (59.3 g), melting at 226°-228° C., is thus obtained.

reactant | 3-chloromethylquinoline hydrochloride | 46.4 g | Cl.ClCC=1C=NC2=CC=CC=C2C1
reactant | thiourea | 19.7 g | NC(=S)N | CH4N2S
solvent | ethanol | 160 cc | C(C)O | C2H6O
solvent | ethanol | 110 cc | C(C)O | C2H6O
product | 2-(Quinol-3-ylmethyl)-isothiourea dihydrochloride | 59.3 g | Cl.Cl.N1=CC(=CC2=CC=CC=C12)CSC(N)=N | InChI=1S/C11H11N3S.2ClH/c12-11(13)15-7-8-5-9-3-1-2-4-10(9)14-6-8;;/h1-6H,7H2,(H3,12,13);2*1H
